US07799779B2
a) N-{2-[5-[4-(3-Methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy ]-4-[4-(4-methyl-3,4 -dihydro-2H-benzo[1,4]oxazin-7-yloxy)phenyl]-1-(toluene-4-sulphonyl)-piperidin-3-yloxy ]ethyl}-4,N-dimethylbenzene sulphonamide
95 mg of sodium hydride dispersion (60%) are added to a solution of 145 mg of 5-[4-(3-methoxypropyl)3,4 -dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-[4-(4-methyl-3,4-dihydro-2 H-benzo[1,4]oxazin-7-yloxy)phenyl]-1-(toluene-4-sulphonyl)piperidin-3-ol and 740 mg of 2-[methyl(toluene-4 -sulphonyl)amino]ethyl toluene-4-sulphonate in 5 ml of tetrahydrofuran while stirring at room temperature. The reaction mixture is stirred at 45° C. for 72 hours. The mixture is poured into 1M aqueous sodium bicarbonate solution (5 ml) and extracted with tert-butyl methyl ether (2×50 ml). The organic phases are washed successively with water (2×10 ml) and brine (1×10 ml), dried with sodium sulphate and evaporated. The title compound is obtained from the residue by flash chromatography (SiO2 60F). Rf=0.08 (EtOAc/heptane 1:1); Rt=5.83.

reactant | sodium hydride | 95 mg | [H-].[Na+]
reactant | 5-[4-(3-methoxypropyl)3,4 -dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-[4-(4-methyl-3,4-dihydro-2 H-benzo[1,4]oxazin-7-yloxy)phenyl]-1-(toluene-4-sulphonyl)piperidin-3-ol | 145 mg | COCCCN1CCOC2=C1C=C(C=C2)COC2C(C(CN(C2)S(=O)(=O)C2=CC=C(C=C2)C)O)C2=CC=C(C=C2)OC2=CC1=C(N(CCO1)C)C=C2 | C40H47N3O8S
reactant | 2-[methyl(toluene-4 -sulphonyl)amino]ethyl toluene-4-sulphonate | 740 mg | C1(=CC=C(C=C1)S(=O)(=O)OCCN(S(=O)(=O)C1=CC=C(C=C1)C)C)C | C17H21NO5S2
reactant | sodium bicarbonate | 1M, 5 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-{2-[5-[4-(3-Methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy ]-4-[4-(4-methyl-3,4 -dihydro-2H-benzo[1,4]oxazin-7-yloxy)phenyl]-1-(toluene-4-sulphonyl)-piperidin-3-yloxy ]ethyl}-4,N-dimethylbenzene sulphonamide | COCCCN1CCOC2=C1C=C(C=C2)COC2C(C(CN(C2)S(=O)(=O)C2=CC=C(C=C2)C)OCCN(S(=O)(=O)C2=CC=C(C=C2)C)C)C2=CC=C(C=C2)OC2=CC1=C(N(CCO1)C)C=C2 | C50H60N4O10S2
